US09388174B2
A suspension was prepared by suspending 1.23 g of ethyl 2-[3-amino-4-(propan-2-yloxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate in 20 mL of acetic acid. A reaction mixture solution prepared by adding 478 mg of sodium azide and 1.09 g of triethyl ortho formate to the suspension was heated at 70° C. for 2 hours under a nitrogen atmosphere. After cooling the reaction mixture solution to room temperature, water was added to the reaction mixture solution, and extraction was performed using ethyl acetate. The organic layer was washed with saline, dried and concentrated under reduced pressure and purified by a conventional method to obtain 1.13 g of ethyl 4-methyl-2-[4-(propan-2-yloxy)-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-1,3-thiazole-5-carboxylate.

reactant | ethyl 2-[3-amino-4-(propan-2-yloxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate | 1.23 g | NC=1C=C(C=CC1OC(C)C)C=1SC(=C(N1)C)C(=O)OCC | C16H20N2O3S
reactant | sodium azide | 478 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethyl ortho formate | 1.09 g | C(OCC)(OCC)OCC | C7H16O3
reactant | water | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-methyl-2-[4-(propan-2-yloxy)-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl]-1,3-thiazole-5-carboxylate | 1.13 g | CC=1N=C(SC1C(=O)OCC)C1=CC(=C(C=C1)OC(C)C)N1N=NN=C1 | C17H19N5O3S
